US07850947B2
A solution of 4-amino-3-chlorobenzoic acid (1.5 g; 8.75 mmol) and N-ethyldiisopropylamine (1.46 mL 8.75 mmol) in THF (50 mL) was added dropwise to a solution of Fmoc-glycylchloride (2.76 g; 8.75 mmol) in CH2Cl2/THF 1:1 (30 mL) and stirred at room temperature under N2. After 3 h the solvent was evaporated under vacuum. The residue was taken up with 0.5N HCl (50 mL), filtered and dried. The white solid was suspended in MeOH (30 mL) and stirred for 1 h, then was filtered and dried to give 4-[[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]acetyl]amino-3-chlorobenzoic acid (2.95 g; 6.5 mmol). Yield 75%.

reactant | 4-amino-3-chlorobenzoic acid | 8.75 mmol, 1.5 g | NC1=C(C=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | N-ethyldiisopropylamine | 8.75 mmol, 1.46 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Fmoc-glycylchloride | 8.75 mmol, 2.76 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)Cl | C17H14ClNO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 THF | 30 mL | C(Cl)Cl.C1CCOC1
product | 4-[[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]acetyl]amino-3-chlorobenzoic acid | 6.5 mmol, 2.95 g, Yield 75% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)NC1=C(C=C(C(=O)O)C=C1)Cl | C24H19ClN2O5
